US06589921B2
Some ortho-coumaric acid was acetylated under conventional conditions to obtain ortho-acetyl coumaric acid with a yield of 49% after recrystallisation. 5.54 g (26.9 mmol) o-acetyl coumaric acid was then hydrogenated for 4 h in 50 ml methanol using 0.5 g 10% Pd-C to give 5.45 g (97%) o-acetyl dihydrocoumaric acid in the form of a white solid.

reactant | o-acetyl coumaric acid | 26.9 mmol, 5.54 g | C(C)(=O)C1=C(/C=C/C(=O)O)C=CC(=C1)O | C11H10O4
solvent | methanol | 50 ml, 0.5 g | CO | CH4O
product | o-acetyl dihydrocoumaric acid | 5.45 g, 97% | C(C)(=O)C1C(/C=C/C(=O)O)C=CC(=C1)O | C11H12O4
